US06262089B1
b) R)-1-[[6-[2-[(R)-2-Carboxy-pyrrolidin-1-yl)-2-oxo-ethoxy]-naphthalen-2-yloxy]-acetyl]-pyrrolidine-2-carboxylic acid
A solution of 75 mg (0.13 mmol) (R)-1-[[6-[2-[(R)-2-tert-butoxycarbonyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-naphthalen-2-yloxy]-acetyl]-pyrrolidine-2-carboxylic acid tert-butyl ester in 1.5 ml trifluoroacetic acid was stirred for 18 h at room temperature. The solvent was removed in vacuo and the residue suspended in 10 ml ether. The resulting suspension was stirred overnight. Filtration and drying gave 60 mg (98%) of the title compound as a white powder.

reactant | (R)-1-[[6-[2-[(R)-2-tert-butoxycarbonyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-naphthalen-2-yloxy]-acetyl]-pyrrolidine-2-carboxylic acid tert-butyl ester | 0.13 mmol, 75 mg | C(C)(C)(C)OC(=O)[C@@H]1N(CCC1)C(COC1=CC2=CC=C(C=C2C=C1)OCC(=O)N1[C@H](CCC1)C(=O)OC(C)(C)C)=O | C32H42N2O8
solvent | trifluoroacetic acid | 1.5 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 1-[[6-[2-[(R)-2-Carboxy-pyrrolidin-1-yl)-2-oxo-ethoxy]-naphthalen-2-yloxy]-acetyl]-pyrrolidine-2-carboxylic acid | 60 mg, 98% | C(=O)(O)[C@@H]1N(CCC1)C(COC=1C=C2C=CC(=CC2=CC1)OCC(=O)N1C(CCC1)C(=O)O)=O | C24H26N2O8
